US05409928
Preparation of 8-(4-benzylphenyl)-4-hydroxypyrazolo[1,5-a]-1,3,5-triazine
A mixture of 3-amino-4-(4-benzylphenyl)-2-carbamoylpyrazole (1.00 g), ethyl orthoformate (0.61 ml) and N, N-dimethylformamide (0.86 ml) was stirred at 100° C. to 110° C. for 45 minutes. To the reaction mixture was added ethyl acetate (20 ml). After stirring at room temperature for 30 minutes, the precipitate was separated by filtration, washed with ethyl acetate, and dried to give the title compound (0.72 g).

reactant | 3-amino-4-(4-benzylphenyl)-2-carbamoylpyrazole | 1.00 g | NC=1N(N=CC1C1=CC=C(C=C1)CC1=CC=CC=C1)C(N)=O | C17H16N4O
reactant | ethyl orthoformate | 0.61 ml | C(OCC)([O-])[O-]
reactant | N, N-dimethylformamide | 0.86 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 8-(4-benzylphenyl)-4-hydroxypyrazolo[1,5-a]-1,3,5-triazine | 0.72 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)C=1C=NN2C1N=CN=C2O | C18H14N4O
